Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
BRBPR
 
Major Surgical or Invasive Procedure:
Repeat colonoscopy on ___

 
History of Present Illness:
___ year old male with hypertension and recent
colonoscopy on ___ with 3 hot snare polypectomies who 
presented with hematochezia. 

The patient had his colonoscopy on ___, after which he felt
reasonably well. He was doing well into ___ morning and 
even
walked his dog. On ___ evening, he had some wine with 
dinner
and felt like he had to vomit. He got up to go to the restroom
and vomited on the way. He then felt bloating and had a bowel
movement after that which filled the toilet bowel with blood. He
then went to sit on the couch and fainted. His wife took his
blood pressure that showed a systolic pressure of 60 mm hg. She
called EMS, who gave him fluids and responded to IV fluids. 

The patient initially presented to ___ where his
BP had improved to 130s systolic (from ___ via EMS) after 300cc
of NS. He received an additional 1L of NS at ___. H/H was
stable. The patient was transferred here since here for further
management. 

Upon arrival here, the patient was mentating well and remained
hemodynamically stable. His Hb was down to 9.7 (from 10.5 at 
OSH,
but after 1.3L of IV fluids). This is down from 14 last month. 
Of
note, he is on ASA 81 for family history of MIs and personal 
history of HLD. 

 
Past Medical History:
HTN
 
Social History:
___
Family History:
Heart disease

 
Physical Exam:
EXAM(8)
VITALS: Afebrile and vital signs significant for all within
normal limits, sat'ing well on RA
GENERAL: Alert, oriented and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD. No ___ 
edema.
DP 2+
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: pleasant, appropriate affect

 
Pertinent Results:
CLS: Pathology of the polyp(s) show "adenoma(s)". There was no
cancer in the polyp(s).  However, adenomatous polyps are the
type of polyps that can turn into cancer if not removed.  Your
polyp(s) were removed. 

Repeat CLS showed no evidence of bleeding. No cautery or 
clipping performed.

___ 01:30AM BLOOD WBC-8.8 RBC-3.02* Hgb-9.7* Hct-29.6* 
MCV-98 MCH-32.1* MCHC-32.8 RDW-13.2 RDWSD-47.5* Plt ___
___ 05:05AM BLOOD WBC-6.0 RBC-3.05* Hgb-9.8* Hct-29.8* 
MCV-98 MCH-32.1* MCHC-32.9 RDW-12.9 RDWSD-46.1 Plt ___
___ 05:05AM BLOOD Glucose-94 UreaN-11 Creat-0.9 Na-143 
K-4.7 Cl-107 HCO3-27 AnGap-9*
 
Brief Hospital Course:
SUMMARY/ASSESSMENT: 
ACUTE/ACTIVE PROBLEMS:
#hematochezia
#acute blood loss anemia:
#syncope: Pt per description appears to have had some vasovagal
episode I/s/o GIB, as he went acutely pain and his SBP was quite
low and improved with minimal bolus. Emesis episodes appear to
have been associated with the LH and vasovagal as opposed to
other GI pathology. No emesis or hematochezia since home. Went
from 10.5 to 9.7 between ED's, likely some dilutional component
to blood loss but does appear to have had some significant blood
loss post-procedure following excisions. Vitals are stable. Low
c/f perf at present given lack of pain, infection. No
hemorrhoids. Less likely diverticular bleed given timing
___. Fact that pt now without bloody BM for about 12h.
- s/p repeat CLS today, with no source of bleeding found. 
Because
of this, we will keep him overnight to monitor for repeat
episodes and if stable, plan to discharge tomorrow. 

#HTN: diagnosed only this month, with home BP readings in 
150-170
range though pt had continued to check at home and said they 
were
more normal recently; written for hctz 12.5mg (has not yet
started taking at home) as well as attempting dietary
modification
- held home hctz initially pending stability of bleed; pt has 
not
yet started taking this medication

#CV: home Rosuvastatin continued; held ASA (for
primary prevention)

OUTSTANDING ISSUES
[ ] advised to hold ASA 81 until able to talk to PCP about risk 
and benefits
[ ] repeat CBC at PCP visit and monitor for symptoms suggesting 
rebleed
[ ] needs repeat CLS in ___ years given adenomas found on CLS

>30 min spent on discharge planning including face to face time

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Rosuvastatin Calcium 10 mg PO QPM 
2. Aspirin EC 81 mg PO DAILY 
3. Hydrochlorothiazide 12.5 mg PO DAILY 

 
Discharge Medications:
1.  Hydrochlorothiazide 12.5 mg PO DAILY  
2.  Rosuvastatin Calcium 10 mg PO QPM  
3. HELD- Aspirin EC 81 mg PO DAILY  This medication was held. Do 
not restart Aspirin EC until talking to your primary care doctor 
about whether it is necessary, as it increases your risk of 
bleeding

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Post-polypectomy bleed
Acute blood loss anemia
Syncope

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital with bloody stools after a 
polypectomy. We repeated a colonoscopy and did not find a source 
for your bleeding. We monitored you overnight and you did not 
rebleed. Pathology of the polyps show "adenomas". There was no
cancer in the polyps.  However, adenomatous polyps are the
type of polyps that can turn into cancer if not removed.  Your
polyps were removed.  

You may develop more adenomatous polyps in the future and
therefore you should continue to undergo routine colorectal
screening.  Your next colonoscopy should be performed
in ___ years or sooner if you develop a change in your bowel 
habits
or rectal bleeding.

We also recommend that you hold off on taking aspirin until you 
talk to your PCP as this can cause recurrent bleeding.

Thank you, 
Your ___ Care Team
 
Followup Instructions:
___